* C:\Users\Amteo\Desktop\ICD\Digital\Components\CLA\Tests\5bit_CLAs_Test_DFFreal.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vdd 0 {Vdd}
V2 Clk 0 PULSE(0 {Vdd} {tt} {trf} {trf} {tt} {2*tt})
X§X1 A_0_1 A_1_1 A_2_1 A_3_1 A_4_1 Vdd 0 0 0 0 0 Vdd 0 Co1 S_0_1 S_1_1 S_2_1 S_3_1 S_4_1 CLA-5bit
X§X3 A_0_3 A_1_3 A_2_3 A_3_3 A_4_3 Vdd 0 0 0 0 Vdd 0 Co3 S_0_3 S_1_3 S_2_3 S_3_3 S_4_3 pseudo-CLA-5bit-NoCin
X§X2 A_0_2 A_1_2 A_2_2 A_3_2 A_4_2 Vdd 0 0 0 0 Vdd 0 Co2 S_0_2 S_1_2 S_2_2 S_3_2 S_4_2 CLA-5bit-NoCin
X§X8 Clk S_3_1 Vdd A_3_1 NC_01 DFF
X§X9 Clk S_2_1 Vdd A_2_1 NC_02 DFF
X§X10 Clk S_1_1 Vdd A_1_1 NC_03 DFF
X§X11 Clk S_0_1 Vdd A_0_1 NC_04 DFF
X§X4 Clk S_4_1 Vdd A_4_1 NC_05 DFF
X§X5 Clk S_3_2 Vdd A_3_2 NC_06 DFF
X§X6 Clk S_2_2 Vdd A_2_2 NC_07 DFF
X§X7 Clk S_1_2 Vdd A_1_2 NC_08 DFF
X§X12 Clk S_0_2 Vdd A_0_2 NC_09 DFF
X§X13 Clk S_4_2 Vdd A_4_2 NC_10 DFF
X§X14 Clk S_3_3 Vdd A_3_3 NC_11 DFF
X§X15 Clk S_2_3 Vdd A_2_3 NC_12 DFF
X§X16 Clk S_1_3 Vdd A_1_3 NC_13 DFF
X§X17 Clk S_0_3 Vdd A_0_3 NC_14 DFF
X§X18 Clk S_4_3 Vdd A_4_3 NC_15 DFF

* block symbol definitions
.subckt CLA-5bit A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Cin Vdd Vee Co_4 S0 S1 S2 S3 S4
X§X32 N001 Vdd N002 Vee INVx1
X§X33 N003 Vdd Co_0 Vee INVx1
X§X34 N015 Vdd N016 Vee INVx1
X§X35 N008 Vdd N009 Vee INVx1
X§X36 N006 Vdd N007 Vee INVx1
X§X37 N014 Vdd S2 Vee INVx1
X§X38 N005 Vdd S3 Vee INVx1
X§X39 N017 Vdd S1 Vee INVx1
X§X40 N026 Vdd S0 Vee INVx1
X§X41 P_0 Cin Vdd N001 Vee NAND2x1
X§X42 P_2 G_1 Vdd N015 Vee NAND2x1
X§X43 P_3 G_2 Vdd N008 Vee NAND2x1
X§X44 P_1 G_0 Vdd N006 Vee NAND2x1
X§X45 N002 G_0 Vdd Vee N003 NOR2x1
X§X46 P_0 Cin Vdd Vee N026 XNOR2x1
X§X47 P_1 Co_0 Vdd Vee N017 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N014 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N005 XNOR2x1
X§X1 A_0 B_0 Vdd Vee G_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
X§X14 A_4 B_4 Vdd Vee G_4 P_4 PG
X§X15 N004 Vdd S4 Vee INVx1
X§X16 P_4 Co_3 Vdd Vee N004 XNOR2x1
X§X17 N018 Vdd N019 Vee INVx1
X§X18 P_4 G_3 Vdd N018 Vee NAND2x1
X§X24 P_0 P_1 Cin Vdd Vee N012 3-NAND
X§X25 P_1 P_2 G_0 Vdd Vee N020 3-NAND
X§X26 P_2 P_3 G_1 Vdd Vee N010 3-NAND
X§X27 P_3 P_4 G_2 Vdd Vee N022 3-NAND
X§X28 P_0 P_1 P_2 Cin Vdd Vee N021 4-NAND
X§X29 P_1 P_2 P_3 G_0 Vdd Vee N011 4-NAND
X§X30 P_2 P_3 P_4 G_1 Vdd Vee N023 4-NAND
X§X31 P_0 P_1 P_2 P_3 Cin Vdd Vee N013 5-NAND
X§X50 P_1 P_2 P_3 P_4 G_0 Vdd Vee N024 5-NAND
X§X51 P_0 P_1 P_2 P_3 P_4 Cin Vdd Vee N025 6-NAND
X§X52 N007 N012 G_1 Vdd Vee Co_1 3-NOR
X§X53 N016 N020 N021 G_2 Vdd Vee Co_2 4-NOR
X§X54 N009 N010 N011 N013 G_3 Vdd Vee Co_3 5-NOR
X§X55 N019 N022 N023 N024 N025 G_4 Vdd Vee Co_4 6-NOR
.ends CLA-5bit

.subckt pseudo-CLA-5bit-NoCin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
X§X34 N013 Vdd N014 Vee INVx1
X§X35 N007 Vdd N008 Vee INVx1
X§X36 N005 Vdd N006 Vee INVx1
X§X37 N002 Vdd S2 Vee INVx1
X§X38 N003 Vdd S3 Vee INVx1
X§X39 N001 Vdd S1 Vee INVx1
X§X42 P_2 G_1 Vdd N013 Vee NAND2x1
X§X43 P_3 G_2 Vdd N007 Vee NAND2x1
X§X44 P_1 Co_0 Vdd N005 Vee NAND2x1
X§X47 P_1 Co_0 Vdd Vee N001 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N002 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N003 XNOR2x1
X§X1 A_0 B_0 Vdd Vee Co_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
X§X14 A_4 B_4 Vdd Vee G_4 P_4 PG
X§X15 N004 Vdd S4 Vee INVx1
X§X16 P_4 Co_3 Vdd Vee N004 XNOR2x1
X§X17 N017 Vdd N018 Vee INVx1
X§X18 P_4 G_3 Vdd N017 Vee NAND2x1
X§X25 P_1 P_2 Co_0 Vdd Vee N015 3-NAND
X§X26 P_2 P_3 G_1 Vdd Vee N010 3-NAND
X§X27 P_3 P_4 G_2 Vdd Vee N019 3-NAND
X§X29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-NAND
X§X30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-NAND
X§X50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-NAND
X§X5 N006 G_1 Vdd Vee N009 pseudoNOR-2
X§X7 N008 N010 N012 G_3 Vdd Vee N011 pseudoNOR-4
X§X8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudoNOR-5
X§X10 N009 Vdd Co_1 Vee INVx1
X§X11 N011 Vdd Co_3 Vee INVx1
X§X12 N021 Vdd Co_4 Vee INVx1
X§X13 N016 Vdd Co_2 Vee INVx1
X§X6 N014 N015 G_2 Vdd Vee N016 pseudoNOR-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-CLA-5bit-NoCin

.subckt CLA-5bit-NoCin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
X§X34 N007 Vdd N008 Vee INVx1
X§X35 N011 Vdd N012 Vee INVx1
X§X36 N005 Vdd N006 Vee INVx1
X§X37 N002 Vdd S2 Vee INVx1
X§X38 N003 Vdd S3 Vee INVx1
X§X39 N001 Vdd S1 Vee INVx1
X§X42 P_2 G_1 Vdd N007 Vee NAND2x1
X§X43 P_3 G_2 Vdd N011 Vee NAND2x1
X§X44 P_1 Co_0 Vdd N005 Vee NAND2x1
X§X47 P_1 Co_0 Vdd Vee N001 XNOR2x1
X§X48 P_2 Co_1 Vdd Vee N002 XNOR2x1
X§X49 P_3 Co_2 Vdd Vee N003 XNOR2x1
X§X1 A_0 B_0 Vdd Vee Co_0 P_0 PG
X§X2 A_1 B_1 Vdd Vee G_1 P_1 PG
X§X3 A_2 B_2 Vdd Vee G_2 P_2 PG
X§X4 A_3 B_3 Vdd Vee G_3 P_3 PG
X§X14 A_4 B_4 Vdd Vee G_4 P_4 PG
X§X15 N004 Vdd S4 Vee INVx1
X§X16 P_4 Co_3 Vdd Vee N004 XNOR2x1
X§X17 N014 Vdd N015 Vee INVx1
X§X18 P_4 G_3 Vdd N014 Vee NAND2x1
X§X25 P_1 P_2 Co_0 Vdd Vee N010 3-NAND
X§X26 P_2 P_3 G_1 Vdd Vee N013 3-NAND
X§X27 P_3 P_4 G_2 Vdd Vee N017 3-NAND
X§X29 P_1 P_2 P_3 Co_0 Vdd Vee N016 4-NAND
X§X30 P_2 P_3 P_4 G_1 Vdd Vee N018 4-NAND
X§X50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N019 5-NAND
X§X10 N009 Vdd Co_1 Vee INVx1
V1 S0 P_0 0
X§X5 N015 N017 N018 N019 G_4 Vdd Vee Co_4 5-NOR
X§X6 N012 N013 N016 G_3 Vdd Vee Co_3 4-NOR
X§X7 N008 N010 G_2 Vdd Vee Co_2 3-NOR
X§X8 N006 G_1 Vdd Vee N009 NOR2x1
.param a=0.7
.ends CLA-5bit-NoCin

.subckt DFF CK D Vdd Q Q_BAR
X§X5 D Vdd N001 0 INVx1
X§X1 CK_BAR CK N001 Vdd N002 TGATE
X§X2 N002 Vdd N003 0 INVx1
X§X3 N003 Vdd N005 0 INVx1
X§X4 CK CK_BAR N005 Vdd N002 TGATE
X§X6 CK CK_BAR N003 Vdd N004 TGATE
X§X7 N004 Vdd Q_BAR 0 INVx1
X§X8 Q_BAR Vdd N006 0 INVx1
X§X9 CK_BAR CK N006 Vdd N004 TGATE
X§X10 Q_BAR Vdd Q 0 INVx1
X§X11 CK Vdd CK_BAR 0 INVx1
.ends DFF

.subckt INVx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends INVx1

.subckt NAND2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends NAND2x1

.subckt NOR2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends NOR2x1

.subckt XNOR2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
X§X1 B Vdd N001 Vee INVx1
X§X2 A Vdd N002 Vee INVx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.inc C:\Users\Amteo\Desktop\SPICE\gf180\cmos_tt.txt
.ends XNOR2x1

.subckt PG A B Vdd Vee G P
X§X5 A B Vdd Vee N001 XNOR2x1
X§X6 A B Vdd N002 Vee NAND2x1
X§X7 N002 Vdd G Vee INVx1
X§X8 N001 Vdd P Vee INVx1
.ends PG

.subckt 3-NAND A B C Vdd Vee X
X§X3 N003 Vdd X Vee INVx1
X§X4 N001 Vdd N002 Vee INVx1
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 N002 C Vdd N003 Vee NAND2x1
.ends 3-NAND

.subckt 4-NAND A B C D Vdd Vee X
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 C D Vdd N005 Vee NAND2x1
X§X9 N002 N004 Vdd N003 Vee NAND2x1
X§X10 N001 Vdd N002 Vee INVx1
X§X11 N005 Vdd N004 Vee INVx1
X§X12 N003 Vdd X Vee INVx1
.ends 4-NAND

.subckt 5-NAND A B C D E Vdd Vee X
X§X1 N001 E Vdd N002 Vee NAND2x1
X§X2 N002 Vdd X Vee INVx1
.ends 5-NAND

.subckt 6-NAND A B C D E F Vdd Vee X
X§X7 A B Vdd N001 Vee NAND2x1
X§X8 C D Vdd N003 Vee NAND2x1
X§X10 N001 Vdd N002 Vee INVx1
X§X11 N003 Vdd N004 Vee INVx1
X§X1 E F Vdd N006 Vee NAND2x1
X§X2 N006 Vdd N005 Vee INVx1
.ends 6-NAND

.subckt 3-NOR A B C Vdd Vee X
X§X1 A B Vdd Vee N001 NOR2x1
X§X3 N002 C Vdd Vee N003 NOR2x1
X§X5 N001 Vdd N002 Vee INVx1
X§X8 N003 Vdd X Vee INVx1
.ends 3-NOR

.subckt 4-NOR A B C D Vdd Vee X
X§X5 N001 Vdd N002 Vee INVx1
X§X8 N003 Vdd X Vee INVx1
X§X9 N005 Vdd N004 Vee INVx1
X§X10 A B Vdd Vee N001 NOR2x1
X§X11 C D Vdd Vee N005 NOR2x1
X§X12 N002 N004 Vdd Vee N003 NOR2x1
.ends 4-NOR

.subckt 5-NOR A B C D E Vdd Vee X
X§X3 N001 E Vdd Vee N002 NOR2x1
X§X4 N002 Vdd X Vee INVx1
X§X1 A B C D Vdd Vee N001 4-NOR
.ends 5-NOR

.subckt 6-NOR A B C D E F Vdd Vee X
X§X5 N001 Vdd N002 Vee INVx1
X§X9 N003 Vdd N004 Vee INVx1
X§X10 A B Vdd Vee N001 NOR2x1
X§X11 C D Vdd Vee N003 NOR2x1
X§X2 N006 Vdd N005 Vee INVx1
X§X3 E F Vdd Vee N006 NOR2x1
X§X1 N002 N004 N005 Vdd Vee X 3-NOR
.ends 6-NOR

.subckt pseudoNOR-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-2

.subckt pseudoNOR-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-4

.subckt pseudoNOR-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-5

.subckt pseudoNOR-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudoNOR-3

.subckt TGATE A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=2u M=1
.ends TGATE

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Amteo\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\..\..\..\gf180\cmos_tt.txt
.param Vdd=3.3 a=0.9
.tran {64*tt}
* V(S_0_1)+2*V(S_1_1)+4*V(S_2_1)+8*V(S_3_1)+16*V(S_4_1)\nV(S_0_2)+2*V(S_1_2)+4*V(S_2_2)+8*V(S_3_2)+16*V(S_4_2)\nV(S_0_3)+2*V(S_1_3)+4*V(S_2_3)+8*V(S_3_3)+16*V(S_4_3)\n \nV(A_0_1)+2*V(A_1_1)+4*V(A_2_1)+8*V(A_3_1)+16*V(A_4_1)\nV(A_0_2)+2*V(A_1_2)+4*V(A_2_2)+8*V(A_3_2)+16*V(A_4_2)\nV(A_0_3)+2*V(A_1_3)+4*V(A_2_3)+8*V(A_3_3)+16*V(A_4_3)
* CLA 5-bit
* CLA 5-bit No Cin
.param tt=0.5n trf={tt/10000}
* pseudo CLA 5-bit No Cin
;.step param a 0.6 1 0.1
.step param tt 0.55n 0.65n 0.05n
.backanno
.end
