* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Digital\Components\CLA\Tests\5bit_CLAs_Test_DFFreal.asc
V1 Vdd 0 {Vdd}
V2 Clk 0 PULSE(0 {Vdd} {tt} {trf} {trf} {tt} {2*tt})
XX1 A_0_1 A_1_1 A_2_1 A_3_1 A_4_1 Vdd 0 0 0 0 0 Vdd 0 Co1 S_0_1 S_1_1 S_2_1 S_3_1 S_4_1 cla-5bit
XX2 A_0_2 A_1_2 A_2_2 A_3_2 A_4_2 Vdd 0 0 0 0 Vdd 0 Co2 S_0_2 S_1_2 S_2_2 S_3_2 S_4_2 cla-5bit-nocin
XX3 A_0_3 A_1_3 A_2_3 A_3_3 A_4_3 Vdd 0 0 0 0 Vdd 0 Co3 S_0_3 S_1_3 S_2_3 S_3_3 S_4_3 pseudo-cla-5bit-nocin
XX4 Clk S_0_1 Vdd A_0_1 NC_01 sdff
XX8 Clk S_1_1 Vdd A_1_1 NC_02 sdff
XX9 Clk S_2_1 Vdd A_2_1 NC_03 sdff
XX10 Clk S_3_1 Vdd A_3_1 NC_04 sdff
XX11 Clk S_4_1 Vdd A_4_1 NC_05 sdff
XX5 Clk S_0_2 Vdd A_0_2 NC_06 sdff
XX6 Clk S_1_2 Vdd A_1_2 NC_07 sdff
XX7 Clk S_2_2 Vdd A_2_2 NC_08 sdff
XX12 Clk S_3_2 Vdd A_3_2 NC_09 sdff
XX13 Clk S_4_2 Vdd A_4_2 NC_10 sdff
XX14 Clk S_0_3 Vdd A_0_3 NC_11 sdff
XX15 Clk S_1_3 Vdd A_1_3 NC_12 sdff
XX16 Clk S_2_3 Vdd A_2_3 NC_13 sdff
XX17 Clk S_3_3 Vdd A_3_3 NC_14 sdff
XX18 Clk S_4_3 Vdd A_4_3 NC_15 sdff

* block symbol definitions
.subckt cla-5bit A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Cin Vdd Vee Co_4 S0 S1 S2 S3 S4
XX32 N001 Vdd N002 Vee invx1
XX33 N003 Vdd Co_0 Vee invx1
XX34 N015 Vdd N016 Vee invx1
XX35 N008 Vdd N009 Vee invx1
XX36 N006 Vdd N007 Vee invx1
XX37 N014 Vdd S2 Vee invx1
XX38 N005 Vdd S3 Vee invx1
XX39 N017 Vdd S1 Vee invx1
XX40 N026 Vdd S0 Vee invx1
XX41 P_0 Cin Vdd N001 Vee nand2x1
XX42 P_2 G_1 Vdd N015 Vee nand2x1
XX43 P_3 G_2 Vdd N008 Vee nand2x1
XX44 P_1 G_0 Vdd N006 Vee nand2x1
XX45 N002 G_0 Vdd Vee N003 nor2x1
XX46 P_0 Cin Vdd Vee N026 xnor2x1
XX47 P_1 Co_0 Vdd Vee N017 xnor2x1
XX48 P_2 Co_1 Vdd Vee N014 xnor2x1
XX49 P_3 Co_2 Vdd Vee N005 xnor2x1
XX1 A_0 B_0 Vdd Vee G_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
XX14 A_4 B_4 Vdd Vee G_4 P_4 pg
XX15 N004 Vdd S4 Vee invx1
XX16 P_4 Co_3 Vdd Vee N004 xnor2x1
XX17 N018 Vdd N019 Vee invx1
XX18 P_4 G_3 Vdd N018 Vee nand2x1
XX24 P_0 P_1 Cin Vdd Vee N012 3-nand
XX25 P_1 P_2 G_0 Vdd Vee N020 3-nand
XX26 P_2 P_3 G_1 Vdd Vee N010 3-nand
XX27 P_3 P_4 G_2 Vdd Vee N022 3-nand
XX28 P_0 P_1 P_2 Cin Vdd Vee N021 4-nand
XX29 P_1 P_2 P_3 G_0 Vdd Vee N011 4-nand
XX30 P_2 P_3 P_4 G_1 Vdd Vee N023 4-nand
XX31 P_0 P_1 P_2 P_3 Cin Vdd Vee N013 5-nand
XX50 P_1 P_2 P_3 P_4 G_0 Vdd Vee N024 5-nand
XX51 P_0 P_1 P_2 P_3 P_4 Cin Vdd Vee N025 6-nand
XX52 N007 N012 G_1 Vdd Vee Co_1 3-nor
XX53 N016 N020 N021 G_2 Vdd Vee Co_2 4-nor
XX54 N009 N010 N011 N013 G_3 Vdd Vee Co_3 5-nor
XX55 N019 N022 N023 N024 N025 G_4 Vdd Vee Co_4 6-nor
.ends cla-5bit

.subckt cla-5bit-nocin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
XX34 N007 Vdd N008 Vee invx1
XX35 N011 Vdd N012 Vee invx1
XX36 N005 Vdd N006 Vee invx1
XX37 N002 Vdd S2 Vee invx1
XX38 N003 Vdd S3 Vee invx1
XX39 N001 Vdd S1 Vee invx1
XX42 P_2 G_1 Vdd N007 Vee nand2x1
XX43 P_3 G_2 Vdd N011 Vee nand2x1
XX44 P_1 Co_0 Vdd N005 Vee nand2x1
XX47 P_1 Co_0 Vdd Vee N001 xnor2x1
XX48 P_2 Co_1 Vdd Vee N002 xnor2x1
XX49 P_3 Co_2 Vdd Vee N003 xnor2x1
XX1 A_0 B_0 Vdd Vee Co_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
XX14 A_4 B_4 Vdd Vee G_4 P_4 pg
XX15 N004 Vdd S4 Vee invx1
XX16 P_4 Co_3 Vdd Vee N004 xnor2x1
XX17 N014 Vdd N015 Vee invx1
XX18 P_4 G_3 Vdd N014 Vee nand2x1
XX25 P_1 P_2 Co_0 Vdd Vee N010 3-nand
XX26 P_2 P_3 G_1 Vdd Vee N013 3-nand
XX27 P_3 P_4 G_2 Vdd Vee N017 3-nand
XX29 P_1 P_2 P_3 Co_0 Vdd Vee N016 4-nand
XX30 P_2 P_3 P_4 G_1 Vdd Vee N018 4-nand
XX50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N019 5-nand
XX10 N009 Vdd Co_1 Vee invx1
V1 S0 P_0 0
XX5 N015 N017 N018 N019 G_4 Vdd Vee Co_4 5-nor
XX6 N012 N013 N016 G_3 Vdd Vee Co_3 4-nor
XX7 N008 N010 G_2 Vdd Vee Co_2 3-nor
XX8 N006 G_1 Vdd Vee N009 nor2x1
.param a=0.7
.ends cla-5bit-nocin

.subckt pseudo-cla-5bit-nocin A_0 A_1 A_2 A_3 A_4 B_0 B_1 B_2 B_3 B_4 Vdd Vee Co_4 S0 S1 S2 S3 S4
XX34 N013 Vdd N014 Vee invx1
XX35 N007 Vdd N008 Vee invx1
XX36 N005 Vdd N006 Vee invx1
XX37 N002 Vdd S2 Vee invx1
XX38 N003 Vdd S3 Vee invx1
XX39 N001 Vdd S1 Vee invx1
XX42 P_2 G_1 Vdd N013 Vee nand2x1
XX43 P_3 G_2 Vdd N007 Vee nand2x1
XX44 P_1 Co_0 Vdd N005 Vee nand2x1
XX47 P_1 Co_0 Vdd Vee N001 xnor2x1
XX48 P_2 Co_1 Vdd Vee N002 xnor2x1
XX49 P_3 Co_2 Vdd Vee N003 xnor2x1
XX1 A_0 B_0 Vdd Vee Co_0 P_0 pg
XX2 A_1 B_1 Vdd Vee G_1 P_1 pg
XX3 A_2 B_2 Vdd Vee G_2 P_2 pg
XX4 A_3 B_3 Vdd Vee G_3 P_3 pg
XX14 A_4 B_4 Vdd Vee G_4 P_4 pg
XX15 N004 Vdd S4 Vee invx1
XX16 P_4 Co_3 Vdd Vee N004 xnor2x1
XX17 N017 Vdd N018 Vee invx1
XX18 P_4 G_3 Vdd N017 Vee nand2x1
XX25 P_1 P_2 Co_0 Vdd Vee N015 3-nand
XX26 P_2 P_3 G_1 Vdd Vee N010 3-nand
XX27 P_3 P_4 G_2 Vdd Vee N019 3-nand
XX29 P_1 P_2 P_3 Co_0 Vdd Vee N012 4-nand
XX30 P_2 P_3 P_4 G_1 Vdd Vee N020 4-nand
XX50 P_1 P_2 P_3 P_4 Co_0 Vdd Vee N022 5-nand
XX5 N006 G_1 Vdd Vee N009 pseudonor-2
XX7 N008 N010 N012 G_3 Vdd Vee N011 pseudonor-4
XX8 N018 N019 N020 N022 G_4 Vdd Vee N021 pseudonor-5
XX10 N009 Vdd Co_1 Vee invx1
XX11 N011 Vdd Co_3 Vee invx1
XX12 N021 Vdd Co_4 Vee invx1
XX13 N016 Vdd Co_2 Vee invx1
XX6 N014 N015 G_2 Vdd Vee N016 pseudonor-3
V1 S0 P_0 0
.param a=0.7
.ends pseudo-cla-5bit-nocin

.subckt sdff CK D Vdd Q Q_BAR
M2 Vdd CK N002 Vdd pmos_3p3 l={L} w={Wp} m={Mp1}
M3 N004 D N007 0 nmos_3p3 l={L} w={Wn} m={Mn1}
M4 N007 CK 0 0 nmos_3p3 l={L} w={Wn} m={Mn1}
XX1 CK Vdd N001 0 invx1
XX2 N001 Vdd CK_D 0 invx1
XX4 Q Vdd Q_BAR 0 invx1
XX5 Q_BAR Vdd Q 0 invx1
M1 N002 N003 N004 0 nmos_3p3 l={L} w={Wn} m={Mn1}
XX6 N002 CK_D Vdd N003 0 nand2x1
M5 Vdd N002 Q Vdd pmos_3p3 l={L} w={Wp2} m={Mp2}
M6 Q CK N006 0 nmos_3p3 l={L} w={Wn2} m={Mn2}
M7 N006 N002 0 0 nmos_3p3 l={L} w={Wn2} m={Mn2}
XX3 N005 Vdd N002 0 invx1
XX7 N002 Vdd N005 0 invx1
.param Wp=9u Wn=3u L=0.28u Mn1=3 Mp1=1 Mn2=2 Mp2=1
.param Wp2=6u Wn2=2u
.ends sdff

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt nand2x1 A B Vdd X Vee
M1 N001 B Vee Vee nmos_3p3 l={L} w={Wn}
M3 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B X Vdd pmos_3p3 l={L} w={Wp}
M2 X A N001 Vee nmos_3p3 l={L} w={Wn}
.param Wp=3u Wn=2u L=0.28u
.ends nand2x1

.subckt nor2x1 A B Vdd Vee X
M1 X B Vee Vee nmos_3p3 l={L} w={Wn}
M3 N001 A X Vdd pmos_3p3 l={L} w={Wp}
M4 Vdd B N001 Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param Wp=6u Wn=1u L=0.28u
.ends nor2x1

.subckt xnor2x1 A B Vdd Vee X
M1 X B A Vee nmos_3p3 l={L} w={Wn }
M3 A N001 X Vdd pmos_3p3 l={L} w={Wp}
XX1 B Vdd N001 Vee invx1
XX2 A Vdd N002 Vee invx1
M2 X N001 N002 Vee nmos_3p3 l={L} w={Wn}
M4 N002 B X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends xnor2x1

.subckt pg A B Vdd Vee G P
XX5 A B Vdd Vee N001 xnor2x1
XX6 A B Vdd N002 Vee nand2x1
XX7 N002 Vdd G Vee invx1
XX8 N001 Vdd P Vee invx1
.ends pg

.subckt 3-nand A B C Vdd Vee X
XX3 N003 Vdd X Vee invx1
XX4 N001 Vdd N002 Vee invx1
XX7 A B Vdd N001 Vee nand2x1
XX8 N002 C Vdd N003 Vee nand2x1
.ends 3-nand

.subckt 4-nand A B C D Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N005 Vee nand2x1
XX9 N002 N004 Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N005 Vdd N004 Vee invx1
XX12 N003 Vdd X Vee invx1
.ends 4-nand

.subckt 5-nand A B C D E Vdd Vee X
XX1 N001 E Vdd N002 Vee nand2x1
XX2 N002 Vdd X Vee invx1
XX4 A B C D Vdd Vee N001 4-nand
.ends 5-nand

.subckt 6-nand A B C D E F Vdd Vee X
XX7 A B Vdd N001 Vee nand2x1
XX8 C D Vdd N003 Vee nand2x1
XX10 N001 Vdd N002 Vee invx1
XX11 N003 Vdd N004 Vee invx1
XX1 E F Vdd N006 Vee nand2x1
XX2 N006 Vdd N005 Vee invx1
XX3 N002 N004 N005 Vdd Vee X 3-nand
.ends 6-nand

.subckt 3-nor A B C Vdd Vee X
XX1 A B Vdd Vee N001 nor2x1
XX3 N002 C Vdd Vee N003 nor2x1
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
.ends 3-nor

.subckt 4-nor A B C D Vdd Vee X
XX5 N001 Vdd N002 Vee invx1
XX8 N003 Vdd X Vee invx1
XX9 N005 Vdd N004 Vee invx1
XX10 A B Vdd Vee N001 nor2x1
XX11 C D Vdd Vee N005 nor2x1
XX12 N002 N004 Vdd Vee N003 nor2x1
.ends 4-nor

.subckt 5-nor A B C D E Vdd Vee X
XX3 N001 E Vdd Vee N002 nor2x1
XX4 N002 Vdd X Vee invx1
XX1 A B C D Vdd Vee N001 4-nor
.ends 5-nor

.subckt 6-nor A B C D E F Vdd Vee X
XX5 N001 Vdd N002 Vee invx1
XX9 N003 Vdd N004 Vee invx1
XX10 A B Vdd Vee N001 nor2x1
XX11 C D Vdd Vee N003 nor2x1
XX2 N006 Vdd N005 Vee invx1
XX3 E F Vdd Vee N006 nor2x1
XX1 N002 N004 N005 Vdd Vee X 3-nor
.ends 6-nor

.subckt pseudonor-2 A B Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-2

.subckt pseudonor-4 A B C D Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-4

.subckt pseudonor-5 A B C D E Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
M5 X D Vee Vee nmos_3p3 l={L} w={Wn}
M6 X E Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-5

.subckt pseudonor-3 A B C Vdd Vee X
M3 X B Vee Vee nmos_3p3 l={L} w={Wn}
M1 Vdd Vee X Vdd pmos_3p3 l={L} w={Wp}
M2 X A Vee Vee nmos_3p3 l={L} w={Wn}
M4 X C Vee Vee nmos_3p3 l={L} w={Wn}
.param L=0.28u Wn=1u Wp={a*Wn}
.ends pseudonor-3

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\..\..\..\gf180\cmos_tt.txt
.param Vdd=3.3 a=0.9
.tran {64*tt}
* V(S_0_1)+2*V(S_1_1)+4*V(S_2_1)+8*V(S_3_1)+16*V(S_4_1)\nV(S_0_2)+2*V(S_1_2)+4*V(S_2_2)+8*V(S_3_2)+16*V(S_4_2)\nV(S_0_3)+2*V(S_1_3)+4*V(S_2_3)+8*V(S_3_3)+16*V(S_4_3)\n \nV(A_0_1)+2*V(A_1_1)+4*V(A_2_1)+8*V(A_3_1)+16*V(A_4_1)\nV(A_0_2)+2*V(A_1_2)+4*V(A_2_2)+8*V(A_3_2)+16*V(A_4_2)\nV(A_0_3)+2*V(A_1_3)+4*V(A_2_3)+8*V(A_3_3)+16*V(A_4_3)
* CLA 5-bit
* CLA 5-bit No Cin
.param trf={tt/10000}
* pseudo CLA 5-bit No Cin
;.step param a 0.6 1 0.1
.param tt 0.55n
.backanno
.end
